* C:\Users\Male\Desktop\TC\TP2\EJ1\simulacion_pcb\Circuito 1\Caso 2\ej1_circ1_caso2.asc
R3 N001 0 25k
R4 vout 0 100k
V1 0 vee 15
V2 vcc 0 15
v3 vin 0 AC 1 Rser=50
R1 vin N001 25k
R2 vout N001 2.5k
XU2 0 N001 vcc vee vout LM324
.ac dec 10 1 100000000000
.lib C:\Users\Male\Desktop\TC\TP2\EJ1\simulacion_pcb\Circuito 1\Caso 1\LM324.mod.txt
.backanno
.end
